US07759373B2
To a solution of methyl 6-bromomethylnicotinate (350 mg) in tetrahydrofuran (5 ml) was added a 50% aqueous dimethylamine solution (3 ml), and the mixture was vigorously stirred at room temperature for 10 minutes. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: chloroform:methanol=100:1) to obtain methyl 6-(dimethylamino)methylnicotinate (276 mg) as brownish powder.

reactant | methyl 6-bromomethylnicotinate | 350 mg | BrCC1=NC=C(C(=O)OC)C=C1 | C8H8BrNO2
reactant | dimethylamine | 3 ml | CNC | C2H7N
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | methyl 6-(dimethylamino)methylnicotinate | 276 mg | CN(C)CC1=NC=C(C(=O)OC)C=C1 | C10H14N2O2
